Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
admitted for re-induction with ___
 
Major Surgical or Invasive Procedure:
Temp CVL ___
Temp CVL suture change ___

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS: ___ is a ___ man with
intermediate risk cytogenetics and favorable risk molecular
stratification (normal karyotype, FLT3 negative, NPM1 positive,
IDH2 positive, RAD21 positive, CEBPA (negative) presenting to
initiate therapy for now relapsed disease.

REVIEW OF SYSTEMS: No acute issues since recent discharge and
clinic visit. He still does not believe that his AML has
relapsed. Wonders if he took the additional HIDAC cycle if that
would have made a difference. He has not had any fevers, chills,
rigors, sweats, or localizing infectious symptoms. He denies any
headache, vision changes, dizziness, lightheadedness, nausea,
vomiting, abdominal pain, diarrhea, constipation, easy bruising,
joint swelling, skin rash, or any other complaints on a 10-point
review.

 
Past Medical History:
TREATMENT COURSE:
-------------------
___ INITIAL BMBX  AML
___ Consented to  protocol ___  INDUCTION DAUNOrubicin  (90 mg/m2)  Cytarabine  (100
mg/m2)  (RHP: +NPM1, +IDH2,+ RAD21)
___  D+14 BMBx ablated, 
___  D+26 remission, NPM1 negative
___ C1D1 HIDAC
--___ admitted for fever
--___ CT showed perianal abscess, drained, improved with
antibiotics
--___ - C2D1 HIDAC, complicated by fevers and rash after 4 
of
6 doses attributed to possible cytarabine syndrome, all resolved
with higher dexamethasone premedication. also received neulasta
on D9
--___ - C3D1 HIDAC, complicated by neutropenic fever, 
empiric
antibiotics without complications or infectious source
--___ - taken off of active study protocol (control arm) due
to patient preference to avoid frequent visits and tests;
consented to be followed by the study for survival/outcome data
- ___ - initiation of therapy for relapsed AML on trial
___

PAST MEDICAL HISTORY: AML as above

 
Social History:
___
Family History:
Mother had lung cancer
Father had some type of metastatic cancer extensively involving
the bones
No history of any hematologic disorders including leukemia or
lymphoma
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
___ 1605 Temp: 97.8 PO BP: 122/73 HR: 70 RR: 18 O2 sat: 99%
O2 delivery: RA 
GENERAL: Well-appearing adult man sitting comfortably in no 
acute
distress. Pleasant, conversant and interactive.
HEENT: Anicteric sclerae. Mucous membranes are moist and pink. 
no
petechiae, purpura, or exudates. No erythema in oropharynx.
LYMPHATICS:  No tenderness in right cervical region
PULMONARY: Lungs are clear bilaterally. No wheezing, rales or
rhonchi
HEART: RRR, no murmurs, rubs or gallops.
ABDOMEN: Soft, nontender, nondistended. No palpable masses or
hepatosplenomegaly.
EXTREMITIES:  Without any edema.
ACCESS: R Temp CVL

DISCHARGE PHYSICAL EXAMINATION:
___ 1206 Temp: 99 PO BP: 126/77 HR: 60 RR: 18 O2 sat: 100%
O2 delivery: RA 
GENERAL: NAD, lying in bed, pleasant and cooperative. 
HEENT: sclera are clear, conjuctivae anicteric. Mucous membranes
are moist, pink and intact. No petechiae, purpura, or exudates.
No OP lesions. 
PULMONARY: CTAB. No wheezing, rales, crackles or rhonchi.
Respirations are even and unlabored
HEART: RRR, normal S1/S2, no S3/S4, no murmurs, rubs or gallops
ABDOMEN: Normoactive BS. Soft, NTND. No masses or HSM. 
Rectum: Minimal induration on his left gluteal cleft. There is
still overlaying erythema but significantly improved. Skin
remains intact, non-tender on palpation.
EXTREMITIES: WWP. No edema, cyanosis or clubbing 
SKIN: Scattered faint petechiae on shins bilaterally
ACCESS: R Temp CVL-CDI. No erythema, tenderness or drainage.

 
Pertinent Results:
ADMISSION LABS
-----------------

___ 03:24PM   PLT SMR-VERY LOW* PLT COUNT-48*
___ 03:24PM   HYPOCHROM-1+* ANISOCYT-OCCASIONAL 
POIKILOCY-OCCASIONAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL OVALOCYT-OCCASIONAL
___ 03:24PM   NEUTS-4* BANDS-0 ___ MONOS-1* EOS-6 
BASOS-0 ___ MYELOS-0 BLASTS-37* AbsNeut-0.13* 
AbsLymp-1.72 AbsMono-0.03* AbsEos-0.20 AbsBaso-0.00*
___ 03:24PM   WBC-3.3* RBC-2.66* HGB-8.6* HCT-25.2* MCV-95 
MCH-32.3* MCHC-34.1 RDW-16.9* RDWSD-56.6*
___ 03:24PM   TSH-3.9
___ 03:24PM   ALBUMIN-3.9 CALCIUM-8.5 PHOSPHATE-3.7 
MAGNESIUM-2.1
___ 03:24PM   ALT(SGPT)-26 AST(SGOT)-20 ALK PHOS-57 TOT 
BILI-0.4
___ 03:24PM   GLUCOSE-81 UREA N-13 CREAT-0.8 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-26 ANION GAP-11
___ 12:00AM   PLT SMR-VERY LOW* PLT COUNT-48*
___ 12:00AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 12:00AM   NEUTS-12* BANDS-0 ___ MONOS-3* EOS-8* 
BASOS-0 ATYPS-2* ___ MYELOS-0 BLASTS-35* AbsNeut-0.25* 
AbsLymp-0.88* AbsMono-0.06* AbsEos-0.17 AbsBaso-0.00*
___ 12:00AM   WBC-2.1* RBC-2.68* HGB-8.6* HCT-25.8* MCV-96 
MCH-32.1* MCHC-33.3 RDW-17.0* RDWSD-58.3*
___ 12:00AM   ALBUMIN-3.8 CALCIUM-8.2* PHOSPHATE-2.2* 
MAGNESIUM-2.0 URIC ACID-3.6
___ 12:00AM   ALT(SGPT)-25 AST(SGOT)-19 LD(LDH)-191 ALK 
PHOS-52 TOT BILI-0.3
___ 12:00AM   GLUCOSE-143* UREA N-11 CREAT-0.7 SODIUM-142 
POTASSIUM-4.4 CHLORIDE-108 TOTAL CO2-24 ANION GAP-10

DISCHARGE LABS:

___ 12:00AM BLOOD WBC-2.4* RBC-2.49* Hgb-7.4* Hct-22.2* 
MCV-89 MCH-29.7 MCHC-33.3 RDW-14.1 RDWSD-44.7 Plt Ct-70*
___ 12:00AM BLOOD Neuts-69 Bands-4 ___ Monos-7 Eos-0* 
___ Metas-1* AbsNeut-1.75 AbsLymp-0.46* AbsMono-0.17* 
AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Glucose-91 UreaN-6 Creat-0.8 Na-142 
K-3.2* Cl-105 HCO3-26 AnGap-11
___ 12:00AM BLOOD ALT-34 AST-33 LD(LDH)-185 AlkPhos-115 
TotBili-0.6
___ 12:00AM BLOOD Albumin-3.1* Calcium-7.8* Phos-3.2 Mg-1.___ is a ___ man with intermediate
risk AML presenting to initiate therapy for relapsed disease 
with
MEC-R per ___. Course c/b febrile neutropenia with infectious
work-up revealing + clostridium difficile and CoNs from
peripheral culture x1 on ___ (thought to be likely 
contaminant)
and presumed perirectal cellulitis.

ACUTE CONDITIONS
--------------------

#Relapsed AML: evidence of relapsed disease, now enrolled in
protocol ___: Phase 2 Study of Mitoxantrone, Etoposide, and
Cytarabine(MEC) plus Lenalidomide for the Treatment of Adult
Patients with Relapsed or Refractory Acute Myeloid Leukemia. He
was initiated on Lenalidomide outpatient on ___ (Day 1).
Prior to admission, he was cytoreduced with hydrea 1g BID which
is no longer needed given MEC initiation. He is currently in his
nadir but has evidence of counts recovery. Pre-transplant
work-up: Echo, PFTs, EKG, CXR, and panorex (to evaluate for
dental caries given history of periodontal disease). 
-Mitoxantrone* 18 mg IV DAILY on Days 4, 5, 6, 7 and 8.
___ and ___ mg/m2) 
-Etoposide* 223 mg IV DAILY on Days 4, 5, 6, 7 and 8. ___ and ___ mg/m2) 
-Cytarabine* 2230 mg IV DAILY on Days 4, 5, 6, 7 and 8.
___ and ___ 

-Lenalidomide 50mg daily Days ___, now completed
-Added ACV on ___ for VZV/HSV prophylaxis
-Fungal prophylaxis with posaconazole initiated ___ after
MEC completion
-Tentative plan for pre-transplant dental extraction as
outpatient on ___ 
-Day 35 marrow: ___ (results pending) 

#Febrile Neutropenia:
#Perianal discomfort: 
 Last fever on ___. He had one bottle of blood culture on
___ (drawn peripherally) that grew coagulase negative
staphylococcus. ID consulted, thought to be likely due to skin
contamination during culture collection. He was started
empirically on cefepime, has been afebrile since. Positive C.
Diff detected ___ for which he initiated PO vancomycin (Day
1: ___. Of recent, in the setting of counts recovery, he was
noted to have increasing pain on his left gluteal cleft (had
prior abscess on the same site in ___. Given
neutropenia, we broadened his coverage to flagyl and vancomycin
IV. now on Cipro/flagyl per ID
-d/c home with Cipro/augmentin (patient cannot tolerate SE of 
flagyl) 
-u/s with small abscess collection, colorectal evaluated nothing 
to drain currently will f/u outpatient and monitor
-Continue surveillance of his L gluteal cleft pain currently no
pain

#Clostridium Difficile: positive assay on ___ with febrile
neutropenia work-up. Resolution of diarrhea with PO vancomycin. 
-Continue empirically for now on broad spectrum antibiotics 
-Continue PO Vancomycin (D1: ___ until 3days off po ABX

#Pancytopenia: His pancytopenia is most likely secondary to
recent MEC-Revlimid. Evidence of count recovery. Requiring less
frequent platelets and PRBC transfusions.  
-Continue with infectious prophylaxis as above 
-Transfuse if plts < 10 and/or hgb < 7 
-Monitor and trend
-Follow-up with results from BM biopsy 
-Neupogen administered with improved WBC ___ and ___

#Dysgeusia: Persistent bitter taste in mouth since beginning IV
Flagyl, which has resulted in decreased PO intake and 
exacerbated
weight loss (approximately 10kg since admission on ___. He
reports similar symptoms while taking flagyl on prior admission.
He states symptoms resolved with discontinuation. Will continue
to monitor, nutrition consulted, IVF as needed. 

#Malnutrition, mild: Patient with 9% weight loss in 1
month and ongoing poor appetite. Continue with nutrition 
support.
-Continue with diet as ordered, encourage PO intake as tolerated
-Encourage smoothies and frappes 
-Continue multivitamin w/ minerals
-Trend weights daily

#Bio-Psychosocial: He is coping fairly well with his newly
relapsed AML.  

#Marijuana Use: Reports using CBD oil and occasional vaporized
marijuana prior to admission. He is on fungal prophylaxis as
above. 

CHRONIC/RESOLVED CONDITIONS

#Vision change: Resolved. Transient episode of floater sensation
and blurry vision ___. This lasted approximately 15 minutes
then stopped. He had no numbness, tingling, or difficulty w/ 
word
finding at the time. Unclear etiology. No neurologic deficit on
exam. Given risk of CVA or TIA in the setting of high dose
Revlimid, we obtained MRI of head which showed no evidence of
infarction or hemorrhage. He has since completed his Revlimid
course per protocol. Monitor for reoccurrence. 

CORE MEASURES: 
----------------- 
#FEN: IVF prn/replete electrolytes/neutropenic diet & 
precautions
#DVT: None r/t thrombocytopenia  
#Access: R temp CVL placed ___
#HCP/Contact: ___   
#Code: Full Code

#Dispo: home f/u ___ or ___ or sooner if issues arise 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5-1 mg PO Q8H:PRN 
anxiety/nausea/vomiting/insomnia 
2. Vitamin D ___ UNIT PO DAILY 
3. Levofloxacin 500 mg PO Q24H 
4. Allopurinol ___ mg PO DAILY 
5. Lenalidomide 50 mg PO DAILY 
6. Hydroxyurea 1000 mg PO BID 
7. turmeric 1000 mg oral DAILY 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. ginger (Zingiber officinalis) 1 tab oral DAILY 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q12H 
RX *acyclovir 400 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*3 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 10 Days 
 
3.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*28 Tablet Refills:*0 
4.  Vancomycin Oral Liquid ___ mg PO QID  
5.  LORazepam 0.5-1 mg PO Q8H:PRN 
anxiety/nausea/vomiting/insomnia 
RX *lorazepam 0.5 mg ___ tabs by mouth every 8 hours as needed 
Disp #*30 Tablet Refills:*0 
6.  Multivitamins W/minerals 1 TAB PO DAILY  
7.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Relapsed AML
Pancytopenia 
Clostridium Difficile

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted for your reinduction chemotherapy. While your 
counts were low you developed Clostridium Difficile and skin 
infection. You were treated with antibiotics and you improved. 
Continue your medications as prescribed and follow up with your 
oncologist. 
 
Followup Instructions:
___